US09120749B2
(6-Bromo-4-hydroxyquinolin-3-yl)(cyclopropyl)methanone
Dowtherm was heated to 250° C., methyl 3-(4-bromophenylamino)-2-(cyclopropanecarbonyl)acrylate (24 g, 74.1 mmol) was added portionwise and upon complete addition the reaction mixture was stirred for 20 min. The reaction mixture was cooled to room temperature, diluted with 2:1 hexanes/diethyl ether and filtered to afford the desired product (9.71 g, 45%) as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 12.65 (s, 1H), 8.51 (s, 1H), 8.32 (d, J=2.3 Hz, 1H), 7.89 (dd, J=8.8, 2.3 Hz, 1H), 7.62 (d, J=8.8 Hz, 1H), 3.73-3.49 (m, J=7.5, 5.0 Hz, 1H), 1.15-0.76 (m, 4H).

reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | methyl 3-(4-bromophenylamino)-2-(cyclopropanecarbonyl)acrylate | 74.1 mmol, 24 g | BrC1=CC=C(C=C1)NC=C(C(=O)OC)C(=O)C1CC1 | C14H14BrNO3
product | (6-Bromo-4-hydroxyquinolin-3-yl)(cyclopropyl)methanone | 9.71 g, 45% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)O | C13H10BrNO2
